US07795282B2
Step A: Preparation of 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole:
To a solution of 3-(tert-butyldiphenylsilyloxy)-1-phenylpropan-1-one (1.98 g, 5.10 mmol) in 20 mL of a 3:1 mixture of EtOH:DCM was added 2,5-difluorobenzothiohydrazide (0.800 g, 4.25 mmol). The mixture was allowed to stir capped, at room temperature for 60 hours, then uncapped for 48 hours and then concentrated in vacuo. The residue was purified by flash column chromatography (Hexanes) to afford the desired product as an orange oil, 2.19 g, 92% which was contaminated with 3-(tert-butyldiphenylsilyloxy)-1-phenylpropan-1-one. The compound was carried forward to the next step without further purification.

reactant | 3-(tert-butyldiphenylsilyloxy)-1-phenylpropan-1-one | 5.10 mmol, 1.98 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(=O)C1=CC=CC=C1 | C25H28O2Si
reactant | EtOH | CCO | C2H6O
reactant | 2,5-difluorobenzothiohydrazide | 4.25 mmol, 0.800 g | FC1=C(C(NN)=S)C=C(C=C1)F | C7H6F2N2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C32H32F2N2OSSi
